US08703805B2
A mixture of 2-(5-(4-bromo-2-methylphenyl)-1-(2,6-dichlorophenyl)-1H-pyrazol-3-yl)propan-2-ol ((160 mg, 0.36 mmol), 2-morpholinoethanamine (75 mL, 0.57 mmol), sodium tert-butoxide (54 mg, 0.57 mmol), biphenyl-2-yldi-tert-butylphosphine (13.1 mg, 44 μmol), and Pd2(dba)3 (19.8 mg, 22 μmol) was placed in a microwave reaction vial and heated at 160° C. for 15 minutes. After cooling, the reaction was diluted with saturated aqueous NaHCO3, and EtOAc. The layers were separated and the aqueous was extracted with EtOAc (3×). Combined organic extracts were washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure to afford a dark oil. This material was purified by reverse phase preparative HPLC eluting with a gradient of MeCN/H2O with 0.05% TFA. The product peak from the HPLC was basified by addition of saturated aqueous NaHCO3, and concentrated under reduced pressure to remove most of the solvents. The basic aqueous was extracted with CH2Cl2 (3×). The combined organic extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure to afford 2-(1-(2,6-dichlorophenyl)-5-(2-methyl-4-(2-morpholinoethylamino)phenyl)-1H-pyrazol-3-yl)propan-2-ol (67 mg, 38% yield) as a white foam. 1H NMR (400 MHz CDCl3): δ 7.34-7.29 (2H, m), 7.20 (1H, m), 6.84 (1H, d), 6.46 (1H, d), 6.32 (1H, s), 6.23 (1H, m), 4.32 (1H, s), 3.74-3.66 (4H, m), 3.15-3.07 (2H, m), 2.66 (1H, s), 2.63-2.55 (2H, t), 2.48-2.40 (4H, m), 2.33 (3H, s), 1.67 (6H, s). MS(ES): 489 [M+H]+.

reactant | 2-(5-(4-bromo-2-methylphenyl)-1-(2,6-dichlorophenyl)-1H-pyrazol-3-yl)propan-2-ol | BrC1=CC(=C(C=C1)C1=CC(=NN1C1=C(C=CC=C1Cl)Cl)C(C)(C)O)C | C19H17BrCl2N2O
reactant | 2-morpholinoethanamine | 0.57 mmol, 75 mL | O1CCN(CC1)CCN | C6H14N2O
reactant | sodium tert-butoxide | 0.57 mmol, 54 mg | CC(C)([O-])C.[Na+]
reactant | biphenyl-2-yldi-tert-butylphosphine | 44 μmol, 13.1 mg | C1(=C(C=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 22 μmol, 19.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(1-(2,6-dichlorophenyl)-5-(2-methyl-4-(2-morpholinoethylamino)phenyl)-1H-pyrazol-3-yl)propan-2-ol | 67 mg, 38% yield | ClC1=C(C(=CC=C1)Cl)N1N=C(C=C1C1=C(C=C(C=C1)NCCN1CCOCC1)C)C(C)(C)O | C25H30Cl2N4O2
